US05147863
1-Diethoxymethylimidazole
The procedure of Curtis and Brown was followed: Imidazole (204 g, 3.0M), triethyl orthoformate (1300 ml), and p-toluenesulfonic acid monohydrate (3.0 g) were placed in a 2-liter round bottom with a stirring bar and fitted with a Penn-State distillation head. The reaction was heated at reflux and ethanol removed by distillation. Heating was continued until the reaction temperature rose above 140° C. (ca. 2.5 hours). The reaction was cooled to room temperature and potassium carbonate was added to neutralize the acid catalyst. The desired product was isolated by distillation under vacuum, bp 105° C. (5 mm) after collecting a forerun below 105° C.

reactant | Imidazole | 3.0M, 204 g | N1C=NC=C1 | C3H4N2
reactant | p-toluenesulfonic acid monohydrate | 3.0 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | triethyl orthoformate | 1300 ml | C(OCC)(OCC)OCC | C7H16O3
product | 1-Diethoxymethylimidazole | C(C)OC(N1C=NC=C1)OCC | C8H14N2O2
